US04992474
4-[[(6-Bromohexyl)oxy]butyl]-1-methoxybenzene
(3.3 g), b.p. 180°-190°/0.5 torr, from 1,6-dibromohexane (8 g) and 4-(4-methoxyphenyl)butanol (2 g).

reactant | 1,6-dibromohexane | 8 g | BrCCCCCCBr | C6H12Br2
reactant | 4-(4-methoxyphenyl)butanol | 2 g | COC1=CC=C(C=C1)CCCCO | C11H16O2
product | 4-[[(6-Bromohexyl)oxy]butyl]-1-methoxybenzene | BrCCCCCCOCCCCC1=CC=C(C=C1)OC | C17H27BrO2
